US05428047
29.2 g (160.7 mmol) of 3-chloro-2-methyl-phenoxyacetonitrile are added to a solution of 13.5 g (194.2 mmol) of hydroxylamine hydrochloride, 7.7 g (194.2 mmol) of sodium hydroxide in 265 ml of ethanol and 68 ml of water. The mixture is heated at reflux temperature until the reaction is complete (approximately 48 to 60 hours) and the entire batch is subsequently stirred into 250 ml of water. The solid which precipitates in this process is separated off, washed with a small amount of water and dried. 31.1 g (90.2% of theory) of 3-chloro-2-methylphenoxyacetamide oxime are obtained.

reactant | 3-chloro-2-methyl-phenoxyacetonitrile | 160.7 mmol, 29.2 g | ClC=1C(=C(OCC#N)C=CC1)C | C9H8ClNO
reactant | hydroxylamine hydrochloride | 194.2 mmol, 13.5 g | Cl.NO
reactant | sodium hydroxide | 194.2 mmol, 7.7 g | [OH-].[Na+]
solvent | ethanol | 265 ml | C(C)O | C2H6O
solvent | water | 68 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | 3-chloro-2-methylphenoxyacetamide oxime | 31.1 g, 90.2% | ClC=1C(=C(OCC(N)=NO)C=CC1)C | C9H11ClN2O2
